* C:\Users\ASUS\Desktop\Semesters\Sem 8\BTP\Simulation\FI_MV_with_FEM\IVTesterFullCircuit - FIMV.asc
Vset N002 0 0.01
V2 N001 N005 5
R3 Rsense+ 0 0.2
M1 N001 N004 Rsense+ Rsense+ IRLHM630
XU1 N002 Rsense+ V++ V-- N003 LT1001
V3 V++ 0 12
V4 V-- 0 -12
R4 N003 0 10k
R5 N004 N003 100
R1 Imeas N009 32k
C1 Imeas 0 330n
R2 N011 0 4.7k
R6 0 N007 10k
R7 N009 N011 10k
XU2 N007 N011 V++ V-- N009 AD746
R8 N007 Rsense+ 4.7k
R9 VMeas N008 32k
C2 VMeas 0 330n
R10 N010 VCell- 470
R11 0 N006 470
R12 N008 N010 470
XU4 N006 N010 V++ V-- N008 AD746
R13 N006 VCell+ 470
XU3 0 N005 VCell- VCell+ solarcell
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ASUS\AppData\Local\LTspice\lib\cmp\standard.mos
.dc Vset 0 2.3 0.001
;temp 25 30 35
* Current Measurement Circuit
* Voltage Measurement Circuit
.include solarcell.sub
.lib ADI1.lib
.lib LTC.lib
.backanno
.end
