*C:\Users\ASUS\Desktop\Semesters\Sem 8\BTP\Simulation\Gold_Mk0\spice_model.asc
I1 0 N001 1
R1 N001 0 1000.0
R2 N001 0 2000.0
R3 N001 0 3000.0
.tran 10m
.backanno
.end